US08912287B2
4.3 g (20 mmol) of 4-acetyloxy-2,2,6,6-tetramethylpiperidine-N-oxide synthesized by the method described in Synthesis Example 1 was dissolved in 20 mL of cumene and 11.7 g (80 mmol) of t-butyl peroxide was added slowly. After a nitrogen bubbling for 30 minutes, it was transferred to a UV laboratory reaction apparatus (System1) made by Heraeus K. K. Light irradiation was performed using a TQ150 type lamp for 10 minutes to carry out a reaction. The reaction mixture was concentrated by a rotary evaporator, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=5/1, volume ratio) to obtain 5.5 g of 1-cumyloxy-2,2,6,6-tetramethyl-4-acetyloxypiperidine was obtained (82.3% of yield).

reactant | 4-acetyloxy-2,2,6,6-tetramethylpiperidine-N-oxide | 20 mmol, 4.3 g | C(C)(=O)OC1CC([NH+](C(C1)(C)C)[O-])(C)C | C11H21NO3
reactant | t-butyl peroxide | 80 mmol, 11.7 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | cumene | 20 mL | C1(=CC=CC=C1)C(C)C | C9H12
product | 1-cumyloxy-2,2,6,6-tetramethyl-4-acetyloxypiperidine | 5.5 g | C(C)(C)(C1=CC=CC=C1)ON1C(CC(CC1(C)C)OC(C)=O)(C)C | C20H31NO3
